US05587388
The same procedures as described in Preparation Example 1 were repeated using phenyl magnesium chloride, 2-phenylethyl magnesium chloride, 2-phenylethyl magnesium bromide, 3-phenylpropyl magnesium bromide and methyl magnesium chloride, respectively, in place of benzyl magnesium chloride to obtain functionalized amines. Each compound obtained in Preparation Examples 4 to 7 and physical properties thereof are given below in table 4.

reactant | phenyl magnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | 2-phenylethyl magnesium chloride | C1(=CC=CC=C1)CC[Mg]Cl
reactant | 2-phenylethyl magnesium bromide | C1(=CC=CC=C1)CC[Mg]Br
reactant | 3-phenylpropyl magnesium bromide | C1(=CC=CC=C1)CCC[Mg]Br
reactant | methyl magnesium chloride | C[Mg]Cl
product | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl | InChI=1S/C7H7.ClH.Mg/c1-7-5-3-2-4-6-7;;/h2-6H,1H2;1H;/q;;+1/p-1
